US04618683
1,2-Dihydro-3,4-dimethoxybenzocyclobutene-1-carbonitrile
A mixture of liquid NH3 (400 mL) and catalytic Fe(NO3)3 was stirred under N2 at -50° C. A small portion of Na metal (from a total amount of 20 g., 0.87 mole) was added. Air was bubbled through the reaction mixture briefly until a black precipitate appeared. The remaining Na was added portionwise. 3-(6-bromo-2,3-dimethoxyphenyl)-propionitrile (31.1 g, 0.115 mole) was added over 70 minutes as the reaction mixture was stirred at slow reflux. When the addition was complete, the reaction mixture was stirred at reflux for 1/2 hr, then was cooled to -55° C. as NH4Cl (35.2 g, 0.66 mole) was added slowly. NH3 was allowed to evaporate overnight. Water was added cautiously with stirring. The solid was filtered, washed with water, dried (in-vacuo) to yield 21.0 g gray powder, (97%); M+ 189.

reactant | 3-(6-bromo-2,3-dimethoxyphenyl)-propionitrile | 0.115 mole, 31.1 g | BrC1=CC=C(C(=C1CCC#N)OC)OC | C11H12BrNO2
reactant | NH4Cl | 0.66 mole, 35.2 g | [NH4+].[Cl-]
solvent | NH3 | 400 mL | N | H3N
product | 1,2-Dihydro-3,4-dimethoxybenzocyclobutene-1-carbonitrile | 21.0 g, 97% | COC1=C(C=CC=2C(CC21)C#N)OC | C11H11NO2
